US07807708B2
In a manner similar to that of Example 2a, by reacting 260 mg of ethyl 4″-(acetylethylamino)-3″-tert-butyl-4′-hydroxy[1,1′;3′,1″]terphenyl-4-carboxylate (0.56 mmol) in 12 mL of dimethylformamide with 225 mg of caesium carbonate and 0.16 mL of 1-bromo-4-(tert-butyldimethylsilanyloxy)butane, 310 mg of ethyl 4″-(acetylethylamino)-3″-tert-butyl-4′-[4-(tert-butyldimethylsilanyloxy)butoxy]-[1,1′;3′,1″]terphenyl-4-carboxylate (yield=99%) are obtained in the form of an oil.

reactant | ethyl 4″-(acetylethylamino)-3″-tert-butyl-4′-hydroxy[1,1′;3′,1″]terphenyl-4-carboxylate | 0.56 mmol, 260 mg | C(C)(=O)CCNC1=C(C=C(C=C1)C=1C=C(C=CC1O)C1=CC=C(C=C1)C(=O)OCC)C(C)(C)C | C29H33NO4
reactant | caesium carbonate | 225 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromo-4-(tert-butyldimethylsilanyloxy)butane | 0.16 mL | BrCCCCO[Si](C)(C)C(C)(C)C | C10H23BrOSi
solvent | dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
product | ethyl 4″-(acetylethylamino)-3″-tert-butyl-4′-[4-(tert-butyldimethylsilanyloxy)butoxy]-[1,1′;3′,1″]terphenyl-4-carboxylate | 310 mg, yield=99% | C(C)(=O)CCNC1=C(C=C(C=C1)C=1C=C(C=CC1OCCCCO[Si](C)(C)C(C)(C)C)C1=CC=C(C=C1)C(=O)OCC)C(C)(C)C | C39H55NO5Si
